US07652180B2
Preparation of n-Octadecyl Chloride in a Semicontinuous Process
A 1 l jacketed glass reactor with a glass paddle stirrer and immersed tube for reactant metering is initially charged with 220 g of N-n-octylalkylpyridinium chloride (prepared according to Example 2) and adjusted to a temperature of 150° C. 447 g of n-octadecanol are introduced uniformly via an immersed tube over 5 hours. Gaseous hydrogen chloride is metered in via an immersed tube in a slight stoichiometric excess over the entire reaction time, and the water of reaction formed is simultaneously removed via distillation. The performance of the reaction and the workup of the reaction mixture are analogous to Example 4a. After a total reaction time of 8 h (including 3 hours of postreaction), the conversion based on n-octadecanol is 99.8%.

reactant | n-octadecanol | 447 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | n-Octadecyl Chloride | C(CCCCCCCCCCCCCCCCC)Cl | C18H37Cl
